US07037938B2
To a solution of tert-butyl [2-(4-bromophenyl)ethyl][(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate (500 mg) in 1,2-dimethoxyethane (6 ml) was added 5-formyl-2-thiopheneboronic acid (206 mg), tetrakis(triphenylphosphine)palladium (63 mg) and aqueous solution of sodium carbonate (2M, 1.0 ml), and the mixture was stirred at 80° C. for 7 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-[4-(5-formyl-2-thienyl)phenyl]ethyl]carbamate (187 mg).

reactant | tert-butyl [2-(4-bromophenyl)ethyl][(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate | 500 mg | BrC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@H](O)C1=CC(=CC=C1)Cl | C21H25BrClNO3
reactant | 5-formyl-2-thiopheneboronic acid | 206 mg | C(=O)C1=CC=C(S1)B(O)O | C5H5BO3S
reactant | sodium carbonate | 2M, 1.0 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 6 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 63 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-[4-(5-formyl-2-thienyl)phenyl]ethyl]carbamate | 187 mg | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C=1SC(=CC1)C=O)O | C26H28ClNO4S
